US04370497
5-Cholesten-3β-ol-dithionobenzoate (130 mg, 0.25 mmol) was reacted with bis-(p-methoxyphenyl)-telluroxide for 27 h. 5-Cholesten-3β-thiol-benzoate (88 mg, 70%), m.p. 160°-162° was obtained after p.l.c. (petroleum ether-ethyl acetate 20:1). The product obtained was recrystallised from ethyl acetate (65 mg, 52%), m.p. 164.5-166 (lit., 167°), νmax. (CCl4) 2800,2750,1670,1550,1250,1210,1180,920,865,810-740 (broad) and 700 cm-1, m/e 506 (M+ weak), 369, and 368 (100%).

reactant | 5-Cholesten-3β-ol dithionobenzoate | 0.25 mmol, 130 mg | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O.S=C1C(C(C(=O)[O-])=CC=C1)=S
reactant | bis-(p-methoxyphenyl)-telluroxide | COC1=CC=C(C=C1)[Te](=O)C1=CC=C(C=C1)OC | C14H14O3Te
product | 5-Cholesten-3β-thiol benzoate | 88 mg, 70% | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)S.C(C1=CC=CC=C1)(=O)[O-] | InChI=1S/C27H46S.C7H6O2/c1-18(2)7-6-8-19(3)23-11-12-24-22-10-9-20-17-21(28)13-15-26(20,4)25(22)14-16-27(23,24)5;8-7(9)6-4-2-1-3-5-6/h9,18-19,21-25,28H,6-8,10-17H2,1-5H3;1-5H,(H,8,9)/p-1/t19-,21+,22+,23-,24+,25+,26+,27-;/m1./s1
